US09238640B2
Preparation of 4-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenoxy)-N,N-dimethylpiperidine-1-carboxamide
To a 100 mL round-bottom flask was added 2-amino-4,6-dimethoxybenzamide (196 mg, 1.00 mmol), 4-(4-formylphenoxy)-piperidine-1-carboxylic acid dimethylamide (300 mg, 1.10 mmol), p-toluenesulfonic acid monohydrate (21 mg, 0.10 mmol), sodium hydrogensulfite (216 mg, 1.20 mmol) and dimethylacetamide (5 mL). The mixture was stirred at 115° C. under N2 for 17 hours and cooled to room temperature. Water (20 mL) was added and stirred for 0.5 hours. The precipitate was filtered off, washed with water, and air dried. The crude product was purified by column chromatography (SiO2, neat ethyl acetate, then ethyl acetate/methanol=19:1, then CH2Cl2/methanol=19:1) to afford the title compound as a white solid. Yield: 110 mg (24%). MP 248-249° C. 1H NMR (400 MHz, DMSO-d6): δ 11.91 (s, 1H), 8.15 (d, J=8.8 Hz, 2H), 7.10 (d, J=8.8 Hz, 2H), 6.72 (s, 1H), 6.51 (s, 1H), 4.71-4.69 (m, 1H), 3.89 (s, 3H), 3.85 (s, 3H), 3.44-3.39 (m, 2H), 3.06-2.99 (m, 2H), 2.74 (s, 6H), 2.00-1.96 (m, 2H), 1.64-1.59 (m, 2H).

reactant | 2-amino-4,6-dimethoxybenzamide | 1.00 mmol, 196 mg | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 4-(4-formylphenoxy)-piperidine-1-carboxylic acid dimethylamide | 1.10 mmol, 300 mg | CN(C(=O)N1CCC(CC1)OC1=CC=C(C=C1)C=O)C | C15H20N2O3
reactant | p-toluenesulfonic acid monohydrate | 0.10 mmol, 21 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogensulfite | 1.20 mmol, 216 mg | S(=O)(O)[O-].[Na+]
solvent | Water | 20 mL | O | H2O
solvent | dimethylacetamide | 5 mL | CC(=O)N(C)C | C4H9NO
product | 4-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenoxy)-N,N-dimethylpiperidine-1-carboxamide | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(OC2CCN(CC2)C(=O)N(C)C)C=C1)=O | C24H28N4O5
